US04389502
I. Preparation of methyl methacrylate/ethyl acrylate/t-butylaminoethyl methacrylate polymer solution
The resulting polymer solution has a solids content of about 38.5-40.5 and a relative viscosity of about 1.17-1.20, measured at 25° C. on a 0.5% polymer solids solution using dichloroethylene solvent. The polymer contains about 78% methyl methacrylate, 15% ethyl acrylate, and 7% t-butylaminoethyl methacrylate.

reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
reactant | t-butylaminoethyl methacrylate | C(C(=C)C)(=O)OCCNC(C)(C)C | C10H19NO2
solvent | dichloroethylene | C(CCl)Cl | C2H4Cl2
product | methyl methacrylate ethyl acrylate t-butylaminoethyl methacrylate | C(C(=C)C)(=O)OC.C(C=C)(=O)OCC.C(C(=C)C)(=O)OCCNC(C)(C)C | InChI=1S/C10H19NO2.2C5H8O2/c1-8(2)9(12)13-7-6-11-10(3,4)5;1-4(2)5(6)7-3;1-3-5(6)7-4-2/h11H,1,6-7H2,2-5H3;1H2,2-3H3;3H,1,4H2,2H3
